US08471005B2
The compound was made in an analogous fashion to Example 322 replacing 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine with 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine to afford 60.57 mg of 1-(7-Pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-1H-imidazo[4,5-c]pyridine as a lyophilized powder. (M+H)=314.6. 1H NMR (400 MHz, DMSO, d6) δ 9.43 (s, 1H), 9.36 (s, 1H), 9.29 (s, 1H), 8.69 (m, 2H), 8.50 (m, 2H), 8.23 (m, 1H), 7.65 (m, 2H), 7.38 (d, 1H, J=4.84 Hz).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C12H10N4OS
product | 1-(7-Pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-1H-imidazo[4,5-c]pyridine | 60.57 mg | N1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)N2C=NC=1C=NC=CC12 | C17H11N7
